US06242460B1
One gram of zolpidem is suspended in 35 ml of 1-butanol, 0.32 g of concentrated hydrochloric acid is added and the mixture stirred 15 minutes at room temperature. The clear solution is heated to reflux and 25 ml of a water/1-butanol mixture is distilled off. The resulting mixture is allowed to cool to room temperature and stirred at room temperature for 16 hours. The formed solid is filtered off, washed with 2 ml of 1-butanol and dried in a vacuum oven at 40° C. to produce zolpidem hydrochloride anhydrate. A representative DSC curve is shown in FIG. 11.

reactant | zolpidem | One gram | CC=1C=CC(=CC1)C2=C(N3C=C(C=CC3=N2)C)CC(=O)N(C)C | C19H21N3O
reactant | hydrochloric acid | 0.32 g | Cl | ClH
solvent | 1-butanol | 35 ml | C(CCC)O | C4H10O
product | zolpidem hydrochloride | CC=1C=CC(=CC1)C2=C(N3C=C(C=CC3=N2)C)CC(=O)N(C)C.Cl | InChI=1S/C19H21N3O.ClH/c1-13-5-8-15(9-6-13)19-16(11-18(23)21(3)4)22-12-14(2)7-10-17(22)20-19;/h5-10,12H,11H2,1-4H3;1H
